US08710242B2
5-(Aminomethyl)-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1-benzofuran-2-carboxamide
A solution of 5-cyano-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1-benzofuran-2-carboxamide (273 mg, 0.66 mmol) in methanol (10 ml) was admixed with concentrated hydrochloric acid (0.42 ml) and palladium on carbon (10%; 50 mg) and stirred under a hydrogen atmosphere for 2 h. The reaction mixture was then filtered through Celite® and a silica gel pad.

reactant | 5-cyano-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1-benzofuran-2-carboxamide | 0.66 mmol, 273 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)NC(C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F)C1 | C19H10F6N2O2
reactant | hydrochloric acid | 0.42 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 5-(Aminomethyl)-N-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1-benzofuran-2-carboxamide | NCC=1C=CC2=C(C=C(O2)C(=O)NC(C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F)C1 | C19H14F6N2O2
